Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Vicodin / clindamycin / Risperdal / Abilify / Bactrim
 
Attending: ___.
 
Chief Complaint:
"A mix between Tamiflu and exhaustion" 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old woman who is 13 months
post-partum with her first child and a history of Bipolar
Disorder and OCD who presented to the ___ ED from her
outpatient's psychiatrist's office due to worsening depressive
symptoms, homicidal and suicidal ideation.

On interview the patient reports that about ten days ago she
began to experience flu-like symptoms which led her to become
increasingly fatigued and generally unwell. She notes that since
the birth of her child ___ she has had difficulty finding
enough time to sleep (she usually sleeps ___ hours each night)
but was able to perform her usual daily tasks until her recent
flu-like illness which led to worsening exhaustion.

In the weeks following the birth of her son the patient did not
experience significant mood symptoms including symptoms
consistent with depression and mania.

A few days prior to presentation the patient experienced visual
disturbances which distorted the appearance of her son. She
previously expressed suicidal ideation as well as homicidal
ideation directed at her son ___. Prior to this episode she
has never experienced visual hallucinations or similar
disturbances.

The patient has previously experienced manic episodes which she
finds relatively enjoyable as she is able to perform an 
increased
amount of goal directed activity. She denies history of
impulsivity or risky behavior during her previous manic 
episodes.
She notes that her recent symptoms and sleep disturbances are 
not
consistent with symptoms previously experienced during manic
episodes.

ED COURSE: While in the ED the patient was calm and cooperative
and did not require restraints. On initial interview on the
psychiatric unit the patient notes that she was able to sleep
more while in the ED than any time recently. She states: "I 
can't
stress enough how much better I feel since sleeping."

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
 - Diagnoses: Bipolar disorder, OCD
 - Hospitalizations: ___ on Deaconess 4, twice in ___ ___ due to OCD symptoms)
 - Current treaters and treatment: Psychiatrist Dr. ___
 - ___ and ECT trials: Aripiprazole (discontinued due to
hyperprolactinemia), divalproex delayed release, lorazepam,
risperidone, quetiapine, olanzapine, fluoxetine, lithium
carbonate
 - Self-injury: denies
 - Harm to others: denies
 - Access to weapons: denies

PAST MEDICAL HISTORY: Per Dr. ___ (___), 
confirmed
with patient and updated as relevant:
 - Hypothyroidism secondary ___'s disease
 - Trigeminal neuralgia (s/p left suboccipital craniotomy in
___
 - MVA with postconcussive syndrome (___)
 - Irritable bowel syndrome
 - PCP ___
 
Social History:
SUBSTANCE USE HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Denies using alcohol, tobacco, or recreational drugs.

FORENSIC HISTORY: ___
SOCIAL HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Possible Bipolar Disorder (maternal grandmother)
- Alcoholism (maternal grandfather)
 
Physical Exam:
Physical Exam:
- General: Middle-aged female in NAD. Well-nourished,
well-groomed, well-developed. Appears stated age. Wearing
hospital gown.
 - HEENT: Normocephalic, atraumatic. EOMI. Oropharynx clear.
 - Neck: Supple.
 - Back: No significant deformity.
 - Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 - CV: RRR, no murmurs/rubs/gallops. 
 - Abdomen: +BS, soft, nontender, nondistended. No palpable
masses or organomegaly.
 - Extremities: No clubbing, cyanosis, or edema.
 - Skin: No rashes, abrasions, scars, or lesions.  

Neurological:
 - Motor: Normal bulk and tone bilaterally. No abnormal
movements, no tremor, no dysdiadochokinesia. Strength: full 
power
___ throughout.
 - Gait: Steady. Normal stance and posture. No truncal ataxia.
 - Romberg: Negative.

MSE on day of discharge:
*Appearance: Caucasian woman who appears stated age, neatly 
dressed, no acute distress. 
  Behavior: Good eye contact, cooperative, pleasant. 
  *Mood and Affect: "Much better" / Mood-congruent, smiling at
times. 
  *Speech: Normal rate, volume, rhythm, prosody, articulation.
Fluent in ___. 
  *Thought process: Liner and goal-directed. No loosening of
associations. 
  *Thought Content: Denies SI/HI and AVH. 
  *Judgment and Insight: Good / Good. Patient recognizes
stressors that contributed to psychiatric decompensation and
hospitalization and worked to address these issues to ensure
better outcomes in the future. 
  Cognition: AAOx3. Attentive throughout interview. Memory 
intact
to recent and remote history. 

 
Pertinent Results:
___ 04:55PM URINE  UCG-NEGATIVE
___ 04:55PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:45PM   GLUCOSE-91 UREA N-9 CREAT-0.7 SODIUM-136 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-26 ANION GAP-10
___ 02:45PM   CALCIUM-9.6 PHOSPHATE-2.9 MAGNESIUM-2.2
___ 02:45PM   LITHIUM-0.8
___ 02:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:45PM   WBC-8.7 RBC-4.35 HGB-12.5 HCT-39.0 MCV-90 
MCH-28.7 MCHC-32.1 RDW-12.9 RDWSD-42.4
___ 02:45PM   PLT COUNT-259
 
Brief Hospital Course:
SAFETY: Patient was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit restricted. There were no acute safety issues during this 
hospitalization.
 
LEGAL: ___
PSYCHIATRIC:
#Depressed mood with visual hallucinations and 
suicidal/homicidal ideation: 
___ is a ___ year old woman who is 13 months 
post-partum with her first child with a history of Bipolar 
Disorder and OCD who presented to the ___ ED due to depressed 
mood with visual hallucinations and suicidal/homicidal ideation 
in the setting of multiple stressors at home (resulting in 
decreased sleep) and recent flu (with nausea/vomiting s/p 
Tamiflu), all probably affecting her metabolism/absorption of 
psychotropic meds and thereby leading to a decompensation of her 
bipolar disorder (also some consideration given to post-partum 
psychosis; patient with a 13-month old). Patient had only been 
sleeping ___ hours a night prior to admission, and her 
outpatient psychiatrist (Dr. ___ became very concerned when 
patient endorsed thoughts of harming herself and her son. 
Patient had also reported experiencing visual distortions of her 
son. Upon arriving on the unit, patient's home meds were 
continued: lithium 900 mg QHS, fluoxetine 40 mg daily, and 
lorazepam 0.5-1 mg daily PRN for anxiety. She immediately 
reported feeling a lot better upon sleeping throughout the night 
for at least 8 hours. Dr. ___ was contacted and was in 
agreement with starting an atypical antipsychotic (lurasidone 40 
mg daily) for further stabilization. On the day of discharge, 
patient felt well and denied SI/HI and AVH. She recognized that 
exhaustion and not sleeping enough significantly contributed to 
her admitting symptoms and decompensation. She was eager to go 
home and had plans to have more help with her baby(daycare and 
babysitter), something that has thoroughly been discussed with 
her husband. She will closely follow-up with Dr. ___ as an 
outpatient (next appointment on ___. 
 
MEDICAL:
 - Hypothyroidism: Continued home Levothyroxine 112mcg daily. 
 - Trigeminal neuralgia: No symptoms during hospitalization. 
 - Irritable bowel syndrome: No symptoms during hospitalization. 


PSYCHOSOCIAL:
#) GROUPS/MILIEU: Patient was encouraged to participate in 
unit’s groups, milieu, and therapy opportunities. Usage of 
coping skills, mindfulness, and relaxation methods were 
encouraged. Therapy addressed family, social, work, and housing 
issues. The patient attended and participated in some of the 
groups.
 
#) COLLATERAL CONTACTS:
-Treaters- Dr. ___, ___ (outpatient psychiatrist)
-Records- OMR
-Family- ___, ___ (husband)
 
#) FAMILY INVOLVEMENT:
Family meeting was held with the patient's husband via phone 
with ___. Team relayed how imperative it is that patient receive 
more help at home (daycare, babysitter, etc.). They understand 
and are in agreement with the current treatment and discharge 
plan.
 
INFORMED CONSENT:
-Lurasidone

The Team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.  We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and I answered the patient's questions. 
 The patient appeared able to understand and consented to begin 
the medication. 
 
RISK ASSESSMENT:
Low imminent risk of harm/violence to self/others.
 
#) Chronic/Static Risk Factors:
Chronic mental illness and chronic medical illness
 
#) Modifiable Risk Factors:
-Acute major mood episode- Modified by medication adjustments 
and therapeutic interventions as detailed above
-Active suicidal/homicidal ideation- Modified by medication 
adjustments and therapeutic interventions as detailed above
-Limited social support- Modified by ___ outreach to husband and 
relaying how imperative it is that patient receive more help at 
home (daycare, babysitter, etc.). Patient received a list of 
home support resources. 

 
#) Protective Factors:
Protective factors include current outpatient 
providers/treatment, strong connections to family and community 
support, no substance use, employed, adherent with medications, 
skills in problem solving, conflict resolution and handling 
problems in a non-violent way, help seeking behaviors. Current 
risk is low for intentional self-harm or harm to others given 
that pt denies suicidal/homicidal ideation, intent and plan, is 
accepting of treatment, is currently sober and is future 
oriented with plans.
 
PROGNOSIS:
Good - Patient with chronic psychiatric illness (bipolar 
disorder) but with strong family ties and close follow-up with 
outpatient providers. Patient recognizes factors that led to her 
psychiatric decompensation and hospitalization and has worked to 
modify/alleviate these issues. No acute safety concerns at this 
time, and she has multiple protective factors as detailed above. 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lithium Carbonate 900 mg PO QHS 
2. Fluoxetine 40 mg PO DAILY 
3. Levothyroxine Sodium 112 mcg PO DAILY 
4. Vitamin D ___ UNIT PO 1X/WEEK (___) 
5. FoLIC Acid ___ mcg PO DAILY 
6. LORazepam 0.5-1 mg PO DAILY:PRN Anxiety 

 
Discharge Medications:
1. Fluoxetine 40 mg PO DAILY 
2. FoLIC Acid ___ mcg PO DAILY 
3. Levothyroxine Sodium 112 mcg PO DAILY 
4. Lithium Carbonate 900 mg PO QHS 
5. LORazepam 0.5-1 mg PO DAILY:PRN Anxiety 
6. Vitamin D ___ UNIT PO 1X/WEEK (___) 
7. lurasidone 40 mg oral DINNER

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar affective disorder, current depressive episode 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:
You were hospitalized at ___ for depressed mood with 
suicidal/homicidal ideation.  We adjusted your medications, and 
you are now ready for discharge and continued treatment on an 
outpatient basis.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___